US07576215B2
[4-({[3-(3-BENZOYL-8-CHLOROQUINOLIN-4-YL)PHENYL]AMINO}METHYL)PHENYL]ACETIC ACID
The title compound was prepared from [4-(3-amino-phenyl)-8-chloro-quinolin-3-yl]-phenyl-methanone and (4-formyl-phenyl)-acetic acid methyl ester according to the procedure of Example 66. MS (ESI) m/z 507.

reactant | [4-(3-amino-phenyl)-8-chloro-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)Cl)C(=O)C1=CC=CC=C1 | C22H15ClN2O
reactant | (4-formyl-phenyl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)C=O)=O | C10H10O3
product | [4-({[3-(3-BENZOYL-8-CHLOROQUINOLIN-4-YL)PHENYL]AMINO}METHYL)PHENYL]ACETIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=CC=C(C=C1)CC(=O)O)Cl | C31H23ClN2O3
